US04352913
Example 14: γ-Dimethylaminopropyl N-cyclohexylcarbamate
77.3 g of 3-dimethylamino-1-propanol are reacted with 94 g of cyclohexyl isocyanate in accordance with Example 13. Distillation of the reaction product yields 153.4 g (92.8%) of analytically pure product (analysis by gas chromatography) with a boiling point of 105° C./0.015 torr. IR spectrum: 3320 cm-1NH, 1700 cm-1C=O, no bands between 2000 and 2500 cm-1.

reactant | 3-dimethylamino-1-propanol | 77.3 g | CN(CCCO)C | C5H13NO
reactant | cyclohexyl isocyanate | 94 g | C1(CCCCC1)N=C=O | C7H11NO
product | γ-Dimethylaminopropyl N-cyclohexylcarbamate | C1(CCCCC1)NC(OCCCN(C)C)=O | C12H24N2O2
